US07425639B2
Stage 2(a) Preparation of N-Phenyl-3-bromoisonicotinamide
As described in Synthetic Communications 1997, 27, 1075-1086, a 4-necked RBF equipped with an overhead stirrer and a J-Kem internal temperature probe was placed N-phenylisonicotinamide (35.7 g, 0.18 mol) and anhydrous THF (700 ml). All material appeared to go into solution. This mixture was cooled to −69° C. in a dry ice/IPA bath. To this was slowly added nBuLi (158 ml of a 2.5 M solution in Hexanes) in three portions. While adding the first equivalent of nBuLi, an exotherm was observed raising the temperature to ca. −41° C. The orange reaction mixture was slightly heterogeneous. This was allowed to slowly warm to −5 to 0° C. over 1.5 hrs in a ice/brine bath. The reaction mixture was recooled to −72° C. and 1,2-dibromoethane (36 g, 0.189 mol) in 15 ml of THF was added. A slight exotherm was observed rising to −62° C. The reaction mixture was allowed to stir overnight. The reaction mixture was poured into a flask containing 10 vol. SiO2. Methanol (100 ml) was added and the mixture was concentrated under reduced pressure. The dried silica gel was then placed on top of a bed of silica gel. The plug of silica gel was washed with 40% ethyl acetate/Hexane as eluent. Concentration of 10 liters of solvent afforded an off-white solid. The material was placed in vacuum drying at 60° C. overnight to provide 34 g (68% th) of an off-white solid.

reactant | N-phenylisonicotinamide | 0.18 mol, 35.7 g | C1(=CC=CC=C1)NC(C1=CC=NC=C1)=O | C12H10N2O
reactant | nBuLi | [Li]CCCC
reactant | 1,2-dibromoethane | 0.189 mol, 36 g | BrCCBr | C2H4Br2
reactant | Methanol | 100 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 700 ml | C1CCOC1 | C4H8O
product | N-Phenyl-3-bromoisonicotinamide | C1(=CC=CC=C1)NC(C1=C(C=NC=C1)Br)=O | C12H9BrN2O
